US07528136B2
2-(4-{(2S,4S)-1-Benzyl-4-[(3-chloro-4-fluoro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile
As described for Example 75d, 2-[4-(1-benzyl-4-methylamino-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile was converted, using 3-chloro-4-fluorobenzaldehyde instead of 3,4-dichlorobenzaldehyde, to the title compound. MS m/e=546.3 [M+H]+.

reactant | 2-[4-(1-benzyl-4-methylamino-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile | C(C1=CC=CC=C1)N1C(CC(C1)NC)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C24H29N5O
reactant | 3-chloro-4-fluorobenzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
product | 2-(4-{(2S,4S)-1-Benzyl-4-[(3-chloro-4-fluoro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | C(C1=CC=CC=C1)N1[C@@H](C[C@@H](C1)N(C)CC1=CC(=C(C=C1)F)Cl)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C31H33ClFN5O
